US05545644
To a stirred mixture of lithium borohydride (0.092 g, 4.22 mmol, 2 eq) in anhydrous tetrahydrofuran (5 mL) at 0° C. was added a solution of the (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-methoxy-1H-indole (0.80 g, 2.11 mmol) in anhydrous tetrahydrofuran (8 mL). The resultant mixture was heated at reflux under nitrogen for 1 hour. The reaction mixture was cooled, and water (1 mL) was added carefully, followed by ethyl acetate (20 mL). The resultant mixture was stirred at room temperature for 30 minutes, dried (MgSO4), filtered through diatomaceous earth, and the filtrate was evaporated under reduced pressure. The residue was column chromatographed using silica gel (approximately 50 g) and elution with ethyl acetate/hexanes [1:1] afforded (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylmethyl)-5-methoxy-1H-indole as a colorless gum: 13C NMR [Note: due to slow nitrogen inversion two conformers of the products are seen by NMR spectroscopy] (CDCl3) δ162.5, 136.9, 136.2, 128.4, 127.8, 127.6, 124.5, 123.3, 120.8, 120.3, 111.5, 66.8, 57.4, 39.5, 36.5, 31.4, 29.8, 25.8, 25.5, 18.8; LRMS (m/z, relative intensity) 364 (30, M+), 204 (17), 160 (92), 145 (17), 117 (13), 91 (100). Anal. calcd for C22H24N2O3 ·0.5 H2O: C, 70.76; H, 6.75; N, 7.50. Found: C, 70.70; H, 6.94; N, 7.15.

reactant | lithium borohydride | 4.22 mmol, 0.092 g, 2 eq | [BH4-].[Li+]
reactant | (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-methoxy-1H-indole | 2.11 mmol, 0.80 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)OC | C22H22N2O4
reactant | water | 1 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylmethyl)-5-methoxy-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)OC | C22H24N2O3
